US06423707B1
The reaction mixture of 2-methyl-5-nitroimidazole (127 g, 1.0 mol) and 1-chloro-3-hydroxypropane (500 g, 5.3 mol) will be refluxed for 24 h. Then, the excessive amount of 1-chloro-3-hydroxypropane will be removed via evaporation under a condition of 2660 Pa. To the residue, 200 ml of water will be added. The mixture will be filtered. The filtrate will be collected. The filter residue will be then rinsed with water. The water phases will be combined and alkalified with saturated sodium bicarbonate aqueous solution up to pH 9. The solution will be placed in the cold room overnight for crystallization. The crystals will be filtered, washed with water, and then dried. The crude product will be recrystallized from ethyl acetate to give 1-(3-hydroxypropyl)-2-methyl-5-nitro-1H-imidazole.

reactant | 2-methyl-5-nitroimidazole | 1.0 mol, 127 g | CC=1NC(=CN1)[N+](=O)[O-] | C4H5N3O2
reactant | 1-chloro-3-hydroxypropane | 5.3 mol, 500 g | ClCCCO | C3H7ClO
product | 1-(3-hydroxypropyl)-2-methyl-5-nitro-1H-imidazole | OCCCN1C(=NC=C1[N+](=O)[O-])C | C7H11N3O3
